US07622583B2
5-Chloro-2-(2,6-dimethyl-phenoxy)-pyridin-3-ylamine
2-Bromo-3-nitro-5-chloropyridine (4.8 g, 20 mmol) and 2,6-dimethylphenol (5.0 g, 41 mmol) were magnetically stirred in dry DMF (65 mL) and potassium carbonate (11.0 g, 80 mmol) was added. The mixture was heated at 50° C. for 4 days, allowed to cool to room temperature and added to ice; the product was extracted with ethyl acetate (3×100 mL). The extracts were washed with saturated aqueous NaHCO3 and dried (MgSO4), filtered and concentrated to provide the desired product.

reactant | 2-Bromo-3-nitro-5-chloropyridine | 20 mmol, 4.8 g | BrC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | 2,6-dimethylphenol | 41 mmol, 5.0 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | potassium carbonate | 80 mmol, 11.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-2-(2,6-dimethyl-phenoxy)-pyridin-3-ylamine | ClC=1C=C(C(=NC1)OC1=C(C=CC=C1C)C)N | C13H13ClN2O
